US09315521B2
Lithium aluminum hydride (226 mg, 5.96 mmol) was stirred in anhydrous THF (30 mL). A solution of 4-chloro-2-(propan-2-yl)pyridine-3-carboxylate (904 mg, 3.97 mmol) in anhydrous THF (5 mL) was added at 0° C., and the reaction mixture was stirred at room temperature for 3 hours. The reaction was quenched with an aqueous solution of sodium hydroxide and extracted 5 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, [4-chloro-2-(propan-2-yl)pyridin-3-yl]methanol was obtained as an oil (735 mg, 100% yield) and used in the next step without further purification.

reactant | Lithium aluminum hydride | 5.96 mmol, 226 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-chloro-2-(propan-2-yl)pyridine-3-carboxylate | 3.97 mmol, 904 mg | ClC1=C(C(=NC=C1)C(C)C)C(=O)[O-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [4-chloro-2-(propan-2-yl)pyridin-3-yl]methanol | ClC1=C(C(=NC=C1)C(C)C)CO | C9H12ClNO
